US05354866
C. N-Cyclobutylacetyl-4-benzyl-2-oxazolidinone
To (S)(-)-4-benzyl-2-oxazolidinone (2.65 g, 1.8 equiv) dissolved in tetrahydrofuran (25 mL) at -78° C. was added 2.5M butyl lithium (5.98 mL, 1.8 equiv). After 5 minutes, this solution was cannulated into the above solution. The reaction mixture was allowed to come to room temperature and stirred for 2 hours. The reaction mixture was diluted with chloroform (150 mL), washed with 10% sodium bisulfite (100 mL), dried over sodium sulfate, and concentrated under reduced pressure. The residue obtained was chromatographed on silica gel eluting with 3:2 hexane/ethyl acetate to afford the title compound in 58% yield.

reactant | (S)(-)-4-benzyl-2-oxazolidinone | 2.65 g, 1.8 equiv | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | butyl lithium | 2.5M, 5.98 mL, 1.8 equiv | C(CCC)[Li]
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Cyclobutylacetyl-4-benzyl-2-oxazolidinone | 58% yield | C1(CCC1)CC(=O)N1C(OCC1CC1=CC=CC=C1)=O | C16H19NO3
